Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left hallux gangrene
 
Major Surgical or Invasive Procedure:
bedside wound debridement

 
History of Present Illness:
___ w/ CAD, ESRD HD (___), cardiomyopathy with EF 15%, PAD s/p
R AKA, s/p L fem to peroneal bypass w/ cadaveric vein, with
gangrenous left hallux admitted here for IV antibiotics and LLE
angiogram. Patient was seen in clinic at ___ on
___, he was started on Bactrim, for the gangrenous left
hallux ulcer, and sent for duplex studies to evaluate blood flow
to left foot. On arrival to the floor today, he has no 
complaints
other than pin in the left foot. Of note, patient has a port
placed at an OSH 2 months ago that is used for dialysis. He
reports nurses have had problems with port recently and is
interested in getting AV fistula. 
 
Past Medical History:
PMHx: NSTEMI/CAD (s/p 5vCABG ___, afib, ischemic 
cardiomyopathy (EF 15% ___ Cardiologist), PAD, 
DM2, chronic pain syndrome, nocturia, peripheral neuropathy, 
lumbago, CKD on HD (___), cardioembolic stroke (L 
hemiplegia, ___ Neurology), L atrial appendage clot on 
coumadin depression, ventricular tachycardia, rhabdomyolysis

PSHx: L fem-peroneal bypass ___: LLE angiogram, L 
BK ___ bypass w/ NRSVG (Cambpell), R BKA ___, 
___, R pop-DP bypass, ___ toe amputation ___ 
(___, Vascular surgeon Dr ___ 
___, RLE hematoma evacuation ___ (___), 
bypass graft explantation, tonsillectomy, Debridement ankle 
infection ___ Revision right ankle ligament reconstruction with 
Achilles tendon allograft ___, 5V CABG ___.
 
Social History:
___
Family History:
CAD, DM, stroke 
 
Physical Exam:
GEN: NAD, AOX3
HEENT: no neck bruits/masses
CHEST: irregularly irregular
PULM: unlabored breathing, normal chest excursion
Abdomen: 
Ext: RLE with BKA stump, atrophied thigh muscles.  LLE with 
rubor in leg and foot, missing ___ and ___ toe. 
foul-smelling ulcer on dorsal hallux partially covered with 
eschar.

 
Pertinent Results:
___ 05:55PM   GLUCOSE-312* UREA N-49* CREAT-3.2* SODIUM-136 
POTASSIUM-5.1 CHLORIDE-93* TOTAL CO2-25 ANION GAP-18
___ 05:55PM   estGFR-Using this
___ 05:55PM   CALCIUM-8.3* PHOSPHATE-3.7
___ 05:55PM   %HbA1c-9.5* eAG-226*
___ 05:55PM   WBC-9.5# RBC-3.48* HGB-9.3* HCT-30.0* MCV-86# 
MCH-26.7 MCHC-31.0* RDW-16.7* RDWSD-52.1*
___ 05:55PM   PLT COUNT-156#

___: Upper Extremities Veinous mapping for AV fistula
RIGHT: 
The cephalic vein is patent, ranging in diameter from 0.19 cm to 
0.40 cm. The basilic vein is patent, ranging in diameter from 
0.24 cm to 0.___rtery measures 0.20 cm, with 
heavy calcifications.  The brachial artery measures 0.53 cm, and 
is not calcified. 
  
LEFT: 
The cephalic vein is patent, ranging in diameter from 0.13 cm to 
0.28 cm.  The basilic vein is patent, ranging in diameter from 
0.32 cm to 0.___rtery measures 0.20 cm, and is 
heavily calcified.  The brachial artery measures 0.49 cm, and is 
mildly calcified. 
  
IMPRESSION:  
Venous mapping, with diameters as above. 

___ GRAFT DUPLEX
The left superficial femoral artery to peroneal artery graft is 
patent 
throughout, with velocities ranging from 46 centimeters/second 
to 98 
centimeters/second.  The velocity within the native left 
superficial femoral artery is 145 centimeters/second, with a 
biphasic waveform.  The velocity at the proximal anastomosis is 
245 centimeters/second.  The velocity at the distal anastomosis 
is 106 centimeters/seconds.  The velocity within the native 
peroneal artery is 238 centimeters/second. 
  
IMPRESSION:    
Patent left lower extremity graft, with velocities as described. 


 
Brief Hospital Course:
Mr. ___ was seen in clinic in ___ for follow up at 
which a gangrenous foul-smelling left hallux ulcer was noted. He 
was instructed to come to ___ to be for further management. On 
arrival here, he was admitted and started on broad IV 
antibiotics (Vanc/Cipro/Flagyl). A Doppler of his left 
SFA-peroneal graft was performed which revealed a patent graft.  
He underwent bedside debridement of the ulcer. Culture gram 
stain revealed GPCs clusters. 

While admitted, he went to dialysis on ___ (1L) and ___ (1L). 
He was evaluated by transplant surgery for AV-fistula placement. 
Upper extremity venous and artery mapping were undertaken. His 
diabetes was also managed and well controlled with sliding 
scale. He was discharged home on ___. At discharge, his 
left ___ toed wound looked slightly improved. He was 
transitioned to PO Bactrim SS daily which he will continue for 3 
weeks. He will follow up with transplant clinic and Dr. ___ 
___. These instructions and date were conveyed 
directly to patient who verbalized understanding.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tradjenta (linaGLIPtin) 5 mg oral DAILY 
2. ARIPiprazole 5 mg PO DAILY 
3. Metoprolol Tartrate 12.5 mg PO BID 
4. Sertraline 50 mg PO DAILY 
5. glimepiride 2 mg oral DAILY 
6. Furosemide 80 mg PO 4X/WEEK (___) 
7. BuPROPion (Sustained Release) 150 mg PO QAM 
8. Apixaban 2.5 mg PO BID 
9. Atorvastatin 80 mg PO QPM 
10. Aspirin 81 mg PO DAILY 
11. Gabapentin 300 mg PO BID 
12. OxyCODONE (Immediate Release) 20 mg PO Q6H:PRN Pain - Severe 


 
Discharge Medications:
1.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY Duration: 3 Weeks 
Take AFTER dialysis on days ___ have dialysis. 
RX *sulfamethoxazole-trimethoprim [Bactrim] 400 mg-80 mg 1 
tablet(s) by mouth daily Disp #*30 Tablet Refills:*0 
2.  Apixaban 5 mg PO BID  
3.  ARIPiprazole 5 mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 80 mg PO QPM  
6.  BuPROPion (Sustained Release) 150 mg PO QAM  
7.  Furosemide 80 mg PO 4X/WEEK (___)  
8.  Gabapentin 300 mg PO BID  
9.  glimepiride 2 mg oral DAILY  
10.  Metoprolol Tartrate 12.5 mg PO BID  
11.  OxyCODONE (Immediate Release) 20 mg PO Q6H:PRN Pain - 
Severe  
12.  Sertraline 50 mg PO DAILY  
13.  Tradjenta (linaGLIPtin) 5 mg oral DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left hallux gangrene
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair. (patient's baseline, s/p Right BKA)
 
Discharge Instructions:
Dear ___

___ were admitted to ___ for management 
of ___ left big toe ulcers. While ___ were admitted, we treated 
___ with IV antibiotics and debrided the wound as necessary. The 
wound is is getting better and ___ are now ready to be 
discharged to cointnue ___ recover at home.

ACTIVITY
- ___ may engage in limited weightbearing on the foot. Do try to 
mostly hold weight on your the heel of your left foot. 

WOUND DRESSING;
- ___ may place a dry dressing on the wood and wrap it up 
lightly. 

MEDICATIONS
- ___ are being discharged home on Bactrim for 3 weeks. It is 
important that ___ take these medications as instructed. On days 
___ have dialysis, take your Bactim AFTER dialsysis. 
Dr. ___ let ___ know at follow-up if and when ___ 
should stop this antibiotics
- Please resume taking all your other pre-hospitalization 
medications

PAIN
- ___ may take oxycodone as needed for pain.

FOLLOW-UP
1. ___ have a follow-up scheduled with transplant clinic for 
discussion about placing an AV fistula for dialysis

2. ___ will need a follow-up with Dr. ___ in 2 weeks. His 
office will call ___ to schedule the 

DIALYSIS
___ had half dialysis on ___ and ___. Please go to your 
dialysis center tomorrow (___) to get back on your regular 
(___) schedule 

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___